US04272507
316 mg (1 mmole) of 4-(2,6-dichloroanilino)-3-thiophenacetic acid methyl ester are warmed to 60° in 20 ml of tert.-butanol and 2 ml of concentrated sulfuric acid for 2 hours. The excess alcohol is distilled off. Chromatography on a column (silica gel/methylene chloride) gives, in the first fraction, 4-(2,6-dichloroanilino)-3-thiophenacetic acid tert.-butyl ester.

reactant | 4-(2,6-dichloroanilino)-3-thiophenacetic acid methyl ester | 1 mmole, 316 mg | COC(CC1=CSC=C1NC1=C(C=CC=C1Cl)Cl)=O | C13H11Cl2NO2S
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | tert.-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | 4-(2,6-dichloroanilino)-3-thiophenacetic acid tert.-butyl ester | C(C)(C)(C)OC(CC1=CSC=C1NC1=C(C=CC=C1Cl)Cl)=O | C16H17Cl2NO2S
